US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-[(dimethylamino)methyl]-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one
The title compound was prepared in a similar manner to the procedure outlined below for 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-[(dimethylamino) -methyl]pyridin-2(1H)-one using the aldehyde (300 mg, 0.85 mmol) described above and 2.0 N THF solution of dimethylamine (500 μL, 1 mmol) to give 110 mg (34%) of a colorless oil. The oil was then dissolved in MeOH (1 mL) and stirred with fumaric acid (25 mg) for 1 h. The resulting precipitate was filtered, washed with diethyl ether, and dried to give the pure product as it's fumurate salt. 1H-NMR (DMSOd6/400 MHz). δ 8.43-8.41 (m, 1H), 8.35 (s, 1H), 7.67-7.61 (m, 1H), 7.44-7.40 (m, 1H), 7.35-7.29 (m, 2H), 7.17-7.12 (m, 1H), 6.62 (s, 1H), 6.60 (s, 1H), 5.41 (s, 2H), 5.32 (s, 2H), 3.13 (s, 2H), 2.12 (s, 6H). LC/MS, tr=1.55 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 464 (M+H).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-[(dimethylamino) -methyl]pyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)CN(C)C)C1=C(C=CC=C1F)F)=O | C21H17BrF4N2O2
reactant | dimethylamine | 1 mmol, 500 μL | CNC | C2H7N
reactant | THF | 2.0 N | C1CCOC1 | C4H8O
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-[(dimethylamino)methyl]-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)CN(C)C)CC=1C=NC=CC1)=O | C21H20BrF2N3O2
